US07754737B2
To a 100-mL round bottom flask were added tert-butyl 3-(benzoyl)piperidine-1-carboxylate (0.4733 g, 1.63 mmol, 1.0 equiv) and THF (5 mL). The flask was evacuated and refilled with N2. The mixture was cooled with a dry ice-acetone bath and hexylmagnesium bromide (2.0M solution in Et2O, 2.5 mL, 5.0 mmol, 3.0 equiv) was added. The reaction mixture was allowed to slowly warm to −10° C. while stirring overnight (17 h). The mixture was quenched with saturated NH4Cl (10 mL), extracted three times with EtOAc, and dried over Na2SO4. The crude product was purified by reversed-phase HPLC (XTerra® Prep MS C18 OBD™ Column, 5 μm, 19×50 mm, 10%→90% CH3CN/H2O, 0.1% CF3COOH over 8 min, flow rate 20 mL/min) to give tert-butyl 3-(1-hydroxy-1-phenylheptyl)piperidine-1-carboxylate. LC-MS (3 min) tR=2.41 min, m/z 398 (M+Na+), 376 (MH+), 302, 276, 258.

reactant | tert-butyl 3-(benzoyl)piperidine-1-carboxylate | 1.63 mmol, 0.4733 g, 1.0 equiv | C(C1=CC=CC=C1)(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C17H23NO3
reactant | hexylmagnesium bromide | 5.0 mmol, 2.0M, 2.5 mL, 3.0 equiv | C(CCCCC)[Mg]Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(1-hydroxy-1-phenylheptyl)piperidine-1-carboxylate | OC(CCCCCC)(C1=CC=CC=C1)C1CN(CCC1)C(=O)OC(C)(C)C | C23H37NO3
